US05650534
0.6 g of 2,5-bis (4-[6-acryloyloxyhexyloxy]phenylcarboxy)benzoic acid and 0.4 g of (4-[4-(2-amino-5-nitro-4-[(S)-2-octyloxy]phenyl)benzoyloxy]phenoxy)ethanol, 0.04 g of 4-dimethylaminopyridine, 0.2 g N,N'-dicyclodicyclohexyldicarbodiimide and 20 ml of dichloromethane are reacted in an analogous manner to Example 1 to give (4-[4-(2-amino-5-nitro-4-[(S)-2-octyloxy]-phenyl)benzoyloxy]phenoxy)ethyl 2,5-bis (4-[6-acryloyloxyhexyloxy]phenylcarboxy)benzoate.

reactant | 2,5-bis (4-[6-acryloyloxyhexyloxy]phenylcarboxy)benzoic acid | 0.6 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)OC(=O)C1=C(C(=O)O)C=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C39H42O12
reactant | (4-[4-(2-amino-5-nitro-4-[(S)-2-octyloxy]phenyl)benzoyloxy]phenoxy)ethanol | 0.4 g | NC1=C(C=C(C(=C1)O[C@@H](C)CCCCCC)[N+](=O)[O-])C1=CC=C(C(=O)OC2=CC=C(OC(C)O)C=C2)C=C1 | C29H34N2O7
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (4-[4-(2-amino-5-nitro-4-[(S)-2-octyloxy]-phenyl)benzoyloxy]phenoxy)ethyl 2,5-bis (4-[6-acryloyloxyhexyloxy]phenylcarboxy)benzoate | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)OC(=O)C1=C(C(=O)OCCOC2=CC=C(C=C2)OC(C2=CC=C(C=C2)C2=C(C=C(C(=C2)[N+](=O)[O-])O[C@@H](C)CCCCCC)N)=O)C=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C68H74N2O18
